US07148226B2
2-(2-Chloro-4-{2-[5-(6-chloro-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-2-cyclopentyl-4-hydroxy-6-oxo-3,6-dihydro-2H-pyran-2-yl]-ethyl}-phenyl)-2-methyl-propionitrile
The title compound was prepared analogously to Example A(97) where 6-Chloro-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde was substituted in place of 2-ethyl-4-methyl-1H-imidazole-5-carbaldehyde and 2-{2-Chloro-4-[2-(2-cyclopentyl-4,6-dioxo-tetrahydro-pyran-2-yl)-ethyl]-phenyl}-2-methyl-propionitrile from Example A(147) (was substituted in place of 2-{4-[2-(2-cyclopentyl-4-hydroxy-6-oxo-3,6-dihydro-2H-pyran-2-yl)ethyl]-2-fluorophenyl}-2-methylpropanenitrile. 1H NMR (400 MHz, CDCl3) δ: 1.17–1.59 (m, 8H), 1.56–1.6 (m, 2H)), 1.82 (s, 6H), 1.88–2.01 (m, 2H), 2.31–2.79 (m, 3H), 3.79 (d, J=16 Hz, 1H), 3.89 (d, J=16 Hz, 1H), 7.34–7.52 (m, 3H), 8.91 (d, J=2.5 Hz, 1H), 9.63 (d, J=2.5 Hz, 1H), 10.9 (s, 1H). C28H29Cl2N5O3: C, 60.65; H, 5.27; N, 12.63. Found: C, 60.45; H, 5.19; N, 12.40. MS (ESI): 555.2(M+H+).

reactant | 6-Chloro-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde | ClC=1C=NC=2N(C1)N=C(N2)C=O | C6H3ClN4O
reactant | 2-ethyl-4-methyl-1H-imidazole-5-carbaldehyde | C(C)C=1NC(=C(N1)C)C=O | C7H10N2O
reactant | 2-{2-Chloro-4-[2-(2-cyclopentyl-4,6-dioxo-tetrahydro-pyran-2-yl)-ethyl]-phenyl}-2-methyl-propionitrile | ClC1=C(C=CC(=C1)CCC1(OC(CC(C1)=O)=O)C1CCCC1)C(C#N)(C)C | C22H26ClNO3
reactant | 2-{4-[2-(2-cyclopentyl-4-hydroxy-6-oxo-3,6-dihydro-2H-pyran-2-yl)ethyl]-2-fluorophenyl}-2-methylpropanenitrile | C1(CCCC1)C1(OC(C=C(C1)O)=O)CCC1=CC(=C(C=C1)C(C#N)(C)C)F | C22H26FNO3
product | 2-(2-Chloro-4-{2-[5-(6-chloro-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-2-cyclopentyl-4-hydroxy-6-oxo-3,6-dihydro-2H-pyran-2-yl]-ethyl}-phenyl)-2-methyl-propionitrile | ClC1=C(C=CC(=C1)CCC1(OC(C(=C(C1)O)CC1=NN2C(N=CC(=C2)Cl)=N1)=O)C1CCCC1)C(C#N)(C)C | C28H29Cl2N5O3
